US05908945
1.52 g (10 mmol) of pulegone (2-isopropylidene-5-methylcyclohexanone) and 14.3 mg (0.1 mmol) of CuBr in 10 ml of dry THF are introduced at room temperature. 9.5 ml (11 mmol) of 10% trimethylaluminum in toluene and 1.3 g (12 mmol) of trimethylsilyl chloride are added at 0° C. It is stirred for 5 more hours at room temperature, hydrolyzed with 5 ml of water and extracted twice with 30 ml of ether each, and the organic phases are combined. After the solvent is evaporated, the product is distilled at 10 torr and 120° C. in a bulb tube. 1.45 g (86% of theory) of 2-tert-butyl-5-methylcyclohexanone is obtained.

reactant | pulegone | 10 mmol, 1.52 g | C[C@@H]1CCC(=C(C)C)C(=O)C1 | C10H16O
reactant | trimethylaluminum | 11 mmol, 9.5 ml | C[Al](C)C
reactant | trimethylsilyl chloride | 12 mmol, 1.3 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | water | 5 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-tert-butyl-5-methylcyclohexanone | 1.45 g, 86% | C(C)(C)(C)C1C(CC(CC1)C)=O | C11H20O
